US06906103B2
(A) 5-Nitro-1H-indole-2-carboxylic acid (2-ethylamino-ethyl)-amide (77)
A fine powder of 5-nitro-2-indolecarboxylic acid ethyl ester (0.8 g, 3.41 mmol) was suspended in 2 ml of N-ethylethylenediamine under argon and the reaction mixture was stood at 55° C. overnight. The mixture was co-evaporated with toluene to dryness. The brown solid obtained was dissolved in 6 ml of ethyl acetate and 40 ml of ether was added to precipitate the product. After centrifugation, the liquid was poured out and the solid was washed with 30 ml of ether and dried to give small brown crystals (0.77 g, 82%). ESI MS: 277.11 (M+H+), 299.09 (M+Na+). 1H NMR (DMSO-d6) δ8.67 (d, 1H), 8.04 (dd, 1H), 7.55 (d, 1H), 7.37 (s), 3.36 (m, 3H), 2.69 (q, 2H), 2.55 (q, 2H), 0.99 (t, 3H).

reactant | 5-nitro-2-indolecarboxylic acid ethyl ester | 3.41 mmol, 0.8 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H10N2O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ether | 40 ml | CCOCC | C4H10O
reactant | N-ethylethylenediamine | 2 ml | C(C)NCCN | C4H12N2
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | 5-Nitro-1H-indole-2-carboxylic acid (2-ethylamino-ethyl)-amide | 0.77 g, 82% | C(C)NCCNC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C13H16N4O3
